US07749999B2
4-(4-Nitro-pyridin-2-yl)-morpholine.
To a solution of 2-chloro, 4-nitropyridine (0.2 g, 1.27 mmol) in THF (3 mL) was added morpholine (328 mg, 38.1 mmol). The reaction was heated to 80C and stirred overnight. The solvent was evaporated and the residue purified by column chromatography (2/1 Hex/EtOAc) to yield 150 mg of the target compound.

reactant | 4-nitropyridine | 1.27 mmol, 0.2 g | [N+](=O)([O-])C1=CC=NC=C1 | C5H4N2O2
reactant | morpholine | 38.1 mmol, 328 mg | N1CCOCC1 | C4H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(4-Nitro-pyridin-2-yl)-morpholine | 150 mg | [N+](=O)([O-])C1=CC(=NC=C1)N1CCOCC1 | C9H11N3O3
